US06323011B1
Vanillin:
Metabolites of trans-ferulic acid, including the CoASH thioesters, were analysed and quantitated by HPLC using a Lichrosorb RP-18 column (20 cm×4.6 mm; Capital HPLC, Broxburn, West Lothian, UK) with a multiphasic gradient; solvent “A” was 20 mM NaOAc, adjusted to pH 6.0 and solvent “B” was MeOH; the flow rate was 1.2 ml/min; the proportion of solvent “B” rose linearly from 0% at 0 min to 10% at 15 min and thence to 50% at 40 min and 70% at 45 min, finally decreasing to 0% at 50 min. Detection was with a Spectra Focus detector (Thermo Separation Products, Stone, Staffs. UK), which permitted u/v spectral analysis of each eluting component. Typical approximate retention times were: CoASH, 3 min; vanillic acid, 7 min; trans-ferulic acid, 19 min; acetyl SCoA, 22 min; HMPHP SCoA, 29 min; vanilloyl SCoA, 31 min; vanillin, 31.5 min; trans-feruloyl SCoA, 34 min.

reactant | trans-ferulic acid | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | NaOAc | 20 mM | CC(=O)[O-].[Na+]
solvent | MeOH | CO | CH4O
product | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
